US04324796
Calcium-2-(5-phenylpentyl)oxirane-2-carboxylate
A solution of 400 mg calcium chloride in 5 ml of water is added dropwise to a solution of 1.0 g of sodium 2-(5-phenylpentyl)oxirane-2-carboxylate in 30 ml of water. The mixture is stirred thoroughly. The solution is decanted from the viscous precipitate which has separated out. The precipitate is stirred again with water and decanted. After drying over phosphorus pentoxide 820 mg of the title compound (softening at 270° C. and melting at about 300° C. under decomposition) are obtained.

reactant | calcium chloride | 400 mg | [Cl-].[Ca+2].[Cl-]
reactant | sodium 2-(5-phenylpentyl)oxirane-2-carboxylate | 1.0 g | C1(=CC=CC=C1)CCCCCC1(OC1)C(=O)[O-].[Na+]
solvent | water | 5 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | Calcium 2-(5-phenylpentyl)oxirane-2-carboxylate | [Ca].C1(=CC=CC=C1)CCCCCC1(OC1)C(=O)[O-] | InChI=1S/C14H18O3.Ca/c15-13(16)14(11-17-14)10-6-2-5-9-12-7-3-1-4-8-12;/h1,3-4,7-8H,2,5-6,9-11H2,(H,15,16);/p-1
